Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug)
 
Attending: ___.
 
Chief Complaint:
Fever and chills
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old woman with a complicated past medical 
history including a distant gastric bypass surgery with multiple 
subsequent abdominal surgeries and complications who presents  
with worsening fevers.
Recent admission in ___ w/ stay in rehab until 9 days ago. 
Since then endorses low grade fevers. Abdominal surgeries 
include gastric bypass c/b leak requiring resection, SBO, 
cholecystectomy, intra-abdominal abscess, attempted placement of 
G-tube c/b colonic perforation. Has chronic abdominal pain and 
nausea without vomiting as well as esophageal pain. Now also 
endorses extension of her abdominal pain into her chest and 
back. Denies dyspnea, dysuria, changes in bowel habits, 
diarrhea, blood in stool.
She has had low grade fevers for the past month or so. She had 
been told she had acute sinus infection at her rehab about ___ 
weeks ago was given a 10 day course of amoxicillin which she 
finished about 2 weeks ago. Discharged from rehab ___ and 
living at home (for first time since ___ for the past 7 days. 
She has had a dry cough over the last 2 days or so. No shortness 
of breath. Yesterday evening had fever to 102.5 with shaking 
chills for which she just took tylenol. No myalgias. She did 
receive the flu shot this year. This morning she called her PCP 
at ___ who was requested that she go to the ED as she was 
worried about the possibility of an abdominal abscess. She was 
subsequently brought in by ambulance from ___.
On arrival to the ED initial VS were t99.9 hr77 bp106/68 rr18 O2 
98%/ra. In the ED she complained of mild DOE and chest pain. A 
CT abdomen and pelvis with IV+PO contrast showed a RLL 
infiltrate and some mild left intra-hepatic dilitation. Labs 
were notable for a slightly elevated lactate at 2.3, a WBC of 
10.1 from baseline ~5 with a mild left shift, normal creatinine 
and a potassium of 3.1. She was started on ceftriaxone and 
vancomycin. She also received 40meq of K for a K of 3.1 and some 
IVF.
On the floor she is complaining of ___ pain mostly in her 
epigastrum, chest, back and abdomen. She states that her 
abdominal and epigastric pain is essentially at her baseline and 
that she feels it has just now spread somewhat to her chest and 
back. Seems worse with deep inspiration.
Of note she reports that she thinks she may have aspirated when 
she swallowed something a few nights ago and choked. She does 
not believe she has any documented problems with swallowing but 
does have a history of esophagitis. She is on a regular diet at 
home.

Review of Systems:
(+) as per HPI
(-) headache, vision changes, rhinorrhea, congestion, sore 
throat, cough, shortness of breath, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria, 
rash, numbness, tingling.
 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY at 
___  and complete reversal
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on suboxone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY  and subsequent complete 
reversal
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs, 
attempted reverse of the gastric bypass, the most recent in ___ 
 

 
Social History:
___
Family History:
(Per OMR)
-Mother: insulin dependent DM, DJD, htn- ___
-Father: healthy - ___
-Uncle/Cousin/Aunt: colon ca, breast ca
-MGM: seizures-___ deceased
-MGF: heart ___ deceased
-PGM: ?edema - elderly deceased
-PGF: deceased in war
-Siblings: healthy
-Children: dtr has DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
-----------
Vitals: 98.0 BP 99/58 HR 67 RR 18 O2 sat 99/ra
General: somewhat chronically ill-appearing woman in NAD
HEENT: PERRLA, EOMI, MMM
Neck: no JVD
Lungs: diminished breath sounds throughout, faint crackles at 
right base, no wheeze
CV: regular, distant heart sounds, no murmur appreciated
Abdomen: mid-epigastric and RUQ tenderness without rebound or 
guarding, + bs, surgical scars
Ext: trace edema
Neuro: CN2-12 intact, strength and sensation intact throughout

DISCHARGE PHYSICAL EXAM:
------------
Vitals: 97.9 96/59 68 16 100/RA 
General: NAD, Aox3. Asleep. When awakened, demands pain 
medication.
HEENT: PERRLA, EOMI, MMM
Neck: no JVD
Lungs: CTAB.
CV: regular, distant heart sounds, no murmur appreciated
Abdomen: mid-epigastric and RUQ tenderness without rebound or 
guarding, + bs, surgical scars
Ext: trace edema
Neuro: CN2-12 intact, strength and sensation intact throughout
 
Pertinent Results:
ADMISSION LABS:
-----------

___ 04:37PM BLOOD WBC-10.1# RBC-3.57* Hgb-10.9* Hct-35.3* 
MCV-99* MCH-30.4 MCHC-30.7* RDW-14.1 Plt ___
___ 04:37PM BLOOD Neuts-81.0* Lymphs-15.0* Monos-3.0 
Eos-0.6 Baso-0.4
___ 04:37PM BLOOD ___ PTT-33.4 ___
___ 04:37PM BLOOD Glucose-97 UreaN-14 Creat-0.8 Na-138 
K-3.1* Cl-96 HCO3-32 AnGap-13
___ 04:37PM BLOOD ALT-12 AST-21 AlkPhos-85 TotBili-0.1
___ 04:37PM BLOOD Albumin-3.5

DISCHARGE LABS:
----------

___ 07:46AM BLOOD WBC-6.0 RBC-3.07* Hgb-9.2* Hct-30.5* 
MCV-99* MCH-30.1 MCHC-30.3* RDW-14.3 Plt ___
___ 07:46AM BLOOD Neuts-70.7* ___ Monos-3.6 Eos-1.9 
Baso-0.5
___ 07:46AM BLOOD Glucose-77 UreaN-12 Creat-0.7 Na-141 
K-3.8 Cl-104 HCO3-30 AnGap-11

IMAGING:
----------
CTAP ___
FINDINGS:
 
___ opacities are seen at the right lower lobe, partly 
imaged,
indicative of a small airways infectious or inflammatory 
process.  The
visualized heart and pericardium are unremarkable.  
 
A small hypodensity in the right lobe of the liver is stable 
compared to prior
and may represent a simple cyst.  There is mild intrahepatic 
biliary ductal
dilatation of the the left lobe of the liver, which may have 
been present on
prior studies.  The patient is status post cholecystectomy, and 
the common
bile duct appears slightly more dilated compared to the prior 
study.  The
portal vein is patent.  The spleen is homogeneous and normal in 
size.  No
peripancreatic stranding or fluid collection is seen.  No 
discerete pancreatic
parenchymal lesion is seen. The main pancreatic duct is slightly 
dilated
compared to the most recent prior study. The adrenal glands are 
unremarkable. 
The kidneys present symmetric nephrograms and excretion of 
contrast without
solid or cystic lesions. 
 
The patient is status post gastric bypass surgery.  The small 
bowel maintains
a normal caliber without evidence of obstruction.  There is 
moderate fecal
loading.  The appendix is normal.  The intra-abdominal 
vasculature is 
unremarkable. There is no abdominal free air or free fluid.  
There are no
abdominal wall hernias.  There is no mesenteric or 
retroperitoneal
lymphadenopathy.  Soft tissue densities along the lower anterior 
abdominal
wall are the sequela of subcutaneous injections.
 
The bladder and terminal ureters are unremarkable.  The uterus 
and ovaries are
unremarkable.  There is no pelvic sidewall or inguinal 
lymphadenopathy.  There
is no pelvic free fluid.
 
No suspicious lesion is seen in the visualized osseous 
structures.
 
IMPRESSION:
 
1.  Right lower lobe small airways infectious or inflammatory 
process,
incompletely evaluated on this abdominal CT. 
 
2.  Increased prominence of the CBD and main pancreatic duct, 
with mild left
intrahepatic biliary ductal dilation, which may have been 
present on prior
studies. MRCP is recommended for further evaluation.   
 
Brief Hospital Course:
___  with an extensive history of abdominal surgeries presenting 
with fevers, chills, and pleuritic chest pain found to have RLL 
pneumonia.

ACTIVE ISSUES:
----------------
# PNA: RLL PNA on CTAP, captured incidentally, with ___ days of 
dry cough and worsening fevers. Relative ___ with mild 
left shift. Breathing comfortably on room air with good O2 sats. 
Transitioned to doxycycline and clindamycin for CAP with 
anaerobic coverage for presumable aspiration risk, for total ___hose not to change discharge levofloxacin to 
doxycycline given synergistic QTc prolongation interaction 
between methadone and levofloxacin. 

# PLEURITIC CHEST PAIN: Due to pulmonary parenchymal and pleural 
irritation in the setting of PNA. Evidenced by a respiro-phasic 
quality. 

# CHRONIC ABDOMINAL PAIN IN THE SETTING OF OPIOD DEPENDENCE: 
Continued her home methadone regimen. 

# Left Intrahepatic Biliary Dilitation: Mild, new from prior. 
Normal LFTs. RUQ pain and tenderness is consistent with her 
baseline even per patient's own report. Radiology recommends 
followup with a nonurgent MRCP. 

CHRONIC ISSUES:
------------------

# Copper Deficiency: Recently seen by neurology for evaluation 
of long-standing weakness which was felt to be due to copper 
deficiency. They recommended replacement therapy with copper 
gluconate 8mg x 1 week, 6 mg x 1 week, 4 mg x 1 week, and 2 mg 
thereafter.
- copper gluconate 2mg daily

# HISTORY OF DVT: On treatment dose lovenox for recent DVT which 
we will continue.

# Malnutrition: long history of malnutrition in setting of 
extensive bowel surgeries. On multiple repletions which we will 
continue.

TRANSITIONAL ISSUES:
-----------------

# Anxiety: She is on clonazepam 1mg TID which was decreased to 
0.5mg TID during her last hospitalization as she was felt to be 
too somnolent some of the time. 

# PNA: will complete 7 day course of doxycycline  and 
clindamycin on ___. Warned to watch for signs of C diff 
infection 

# Biliary duct dilation: can consider non-urgent MRCP as 
outpatient

# Chronic pain: pain medications were not adjusted 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Sucralfate 1 gm PO QID 
2. Omeprazole 20 mg PO BID 
3. Furosemide 40 mg PO BID 
4. Methadone 10 mg PO Q6H 
5. MethaDOSE (methadone) 4ml  oral q4h:prn pain 
6. BuPROPion (Sustained Release) 150 mg PO QAM 
7. Doxepin HCl 75 mg PO HS 
8. QUEtiapine Fumarate 100 mg PO QAM 
9. QUEtiapine Fumarate 300 mg PO QHS 
10. Mirtazapine 22.5 mg PO HS 
11. ClonazePAM 1 mg PO TID 
12. Enoxaparin Sodium 50 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
13. Magnesium Oxide Dose is Unknown  PO DAILY 
14. Calcitriol Dose is Unknown  PO DAILY 
15. copper gluconate 2 mg oral daily 
16. Vitamin D 1000 UNIT PO DAILY 
17. Cyanocobalamin Dose is Unknown  PO DAILY 
18. Magnesium Citrate Dose is Unknown  PO ONCE 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. ClonazePAM 1 mg PO TID 
3. copper gluconate 2 mg oral daily 
4. Cyanocobalamin 0 mcg PO DAILY 
5. Doxepin HCl 75 mg PO HS 
6. Enoxaparin Sodium 50 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
7. Furosemide 40 mg PO BID 
8. Methadone 10 mg PO Q6H 
9. Mirtazapine 22.5 mg PO HS 
10. Omeprazole 20 mg PO BID 
11. QUEtiapine Fumarate 100 mg PO QAM 
12. QUEtiapine Fumarate 300 mg PO QHS 
13. Sucralfate 1 gm PO QID 
14. Vitamin D 1000 UNIT PO DAILY 
15. Clindamycin 300 mg PO Q6H 
Stop date: ___ 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every 6 hours 
Disp #*28 Capsule Refills:*0
16. Doxycycline 100mg
17. Calcitriol 0 mcg PO DAILY 
18. Magnesium Citrate 0 mL PO ONCE Duration: 1 Dose 
19. Magnesium Oxide 0 mg PO DAILY 
20. MethaDOSE (methadone) 4 ml ORAL Q4H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Community acquired pneumonia
Pleuritic chest pain
Intrahepatic duct biliary dilation
 
SECONDARY DIAGNOSES:
Chronic abdominal pain 
Anxiety
Copper deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 
 
It was a pleasure taking care of ___ at ___. 
___ were admitted to the hospital because of fever, chills, and 
abdominal pain.  A CT scan of your abdomen did not show a source 
of pain but ___ were found to have a pneumonia, which can 
irritate and cause pain in the lower lung/abdomen region.  We 
have started ___ on two antibiotics which ___ will continue for 
one week. These antibiotics are very strong and can sometimes 
lead to stomach problems, so please let ___ primary doctor know 
right away if ___ are having abdominal cramping or diarrhea.
 
Followup Instructions:
___